US07572820B2
1-({5-[3,5-Bis(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-2-propyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile
A mixture of 2-propyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile (0.040 g, 0.16 mmol), 5-[3,5-bis(trifluoromethyl)phenyl]-3-(chloromethyl)-1,2,4-oxadiazole (0.058 g, 0.17 mmol), Cs2CO3 (0.057 g, 0.17 mmol) and CH3CN (4 mL) was stirred at 75° C. for 1.5 h. The mixture was diluted with EtOAc (25 mL), washed with water (15 mL), and brine (15 mL). The organic portion was dried (MgSO4), filtered, and concentrated. The concentrated material was treated with 10% Et2O in hexanes (10 mL) and stirred for 2 h. The resulting solid was filtered, rinsed with hexanes, and dried to afford the title compound (0.070 g, 81%) as a light tan solid: 1H NMR (400 MHz, DMSO-d6) δ 8.53 (s, 2H), 8.50 (s, 1H), 8.03 (d, J=8.6 Hz, 1H), 7.75 (d, J=8.6 Hz, 1H), 6.59 (s, 1H), 5.90 (s, 2H), 2.90 (t, J=7.5 Hz, 2H), 1.79-1.70 (m, 2H), 0.98 (t, J=7.4 Hz, 3H); MS m/z 547 (M+H).

reactant | 2-propyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | 0.16 mmol, 0.040 g | C(CC)C=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N | C13H11F3N2
reactant | 5-[3,5-bis(trifluoromethyl)phenyl]-3-(chloromethyl)-1,2,4-oxadiazole | 0.17 mmol, 0.058 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NC(=NO1)CCl)(F)F | C11H5ClF6N2O
reactant | Cs2CO3 | 0.17 mmol, 0.057 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | CH3CN | 4 mL | CC#N | C2H3N
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | 1-({5-[3,5-Bis(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-2-propyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | 0.070 g, 81% | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NC(=NO1)CN1C(=CC2=C(C(=CC=C12)C#N)C(F)(F)F)CCC)(F)F | C24H15F9N4O
